US06521397B1
The mixture of 4-nitro-2-benzoxazoleacetonitrile (27.22 g, 0.13 mole) and Palladium on carbon (3 g) in THF (320 ml) and acetic acid (5 ml) in a Parr bottle was hydrogenated at 50 psi for 15 h. It was filtered over a patch of celite (1.5 cm) covered with activated carbon (0.5 cm) and washed with isopropyl ether. The filtrate was evaporated and the residue was triturated with isopropyl ether and propyl acetate and filtered to give 4-amino-2-benzoxazoleacetonitrile (14.16 g, 61%).

reactant | 4-nitro-2-benzoxazoleacetonitrile | 0.13 mole, 27.22 g | [N+](=O)([O-])C1=CC=CC2=C1N=C(O2)CC#N | C9H5N3O3
catalyst | Palladium on carbon | 3 g | [Pd] | Pd
solvent | THF | 320 ml | C1CCOC1 | C4H8O
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 4-amino-2-benzoxazoleacetonitrile | 14.16 g, 61% | NC1=CC=CC2=C1N=C(O2)CC#N | C9H7N3O
